US06376490B1
6.7-Dichloro-2,3-dimethoxy-5-[5-bromo-3-(3-pyridyl)-4H-1,2,4-triazol-4-yl]quinoxaline
N-Bromosuccinimide (58 mg, 0.33 mmol) was added to a stirred suspension of 6,7-dichloro-2,3-dimethoxy-5-[3-(3-pyridyl)-4H-1,2,4-triazol-4-yl]quinoxaline (Preparation 98, 102 mg, 0.25 mmol) in 1,1,1-trichloroethane (6 mL) at room temperature under nitrogen and the mixture was heated under reflux for 18 hours. The mixture was concentrated under reduced pressure and the residue purified by flash chromatography on silica gel, by gradient elution using hexane:ethyl acetate (7:3 changing to 1:1, by volume) to give the title compound (87 mg, 71%) as a white solid.

reactant | N-Bromosuccinimide | 0.33 mmol, 58 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6,7-dichloro-2,3-dimethoxy-5-[3-(3-pyridyl)-4H-1,2,4-triazol-4-yl]quinoxaline | 0.25 mmol, 102 mg | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N1C(=NN=C1)C=1C=NC=CC1 | C17H12Cl2N6O2
solvent | 1,1,1-trichloroethane | 6 mL | ClC(C)(Cl)Cl | C2H3Cl3
product | 6.7-Dichloro-2,3-dimethoxy-5-[5-bromo-3-(3-pyridyl)-4H-1,2,4-triazol-4-yl]quinoxaline | 87 mg, 71% | ClC=1C(=C2N=C(C(=NC2=CC1Cl)OC)OC)N1C(=NN=C1Br)C=1C=NC=CC1 | C17H11BrCl2N6O2
